US07084123B2
To a solution of 4-[(4-ethylthiophenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-methyl-1H-pyrazole (0.41 g) in tetrahydrofuran (10 mL) were added acetic acid (0.11 mL) and acetic anhydride (0.18 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and diethyl ether was added to the residue. The resulting precipitated crystal was collected by filtration to give 1-acetyl-4-[(4-ethylthiophenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-methylpyrazole (0.36 g).

reactant | 4-[(4-ethylthiophenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-methyl-1H-pyrazole | 0.41 g | C(C)SC1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C19H26N2O6S
reactant | acetic acid | 0.11 mL | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 0.18 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-acetyl-4-[(4-ethylthiophenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-methylpyrazole | 0.36 g | C(C)(=O)N1N=C(C(=C1C)CC1=CC=C(C=C1)SCC)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C21H28N2O7S
